US05530053
Preparation of 1-[4-[2-hydroxyethyl]phenyl]aminoanthraquinone (HEPAAQ)
HEPAAQ was prepared by a procedure described in Lord, M. W.; Peters, A. T.; J. Chem. Soc., Perkins Trans., 1,(20)2305-8, incorporated herein by reference, with a slight modification. In a 250 mL single-necked round-bottom flask equipped with a reflux condenser was placed 1-chloroanthraquinone (10.5 g), 4-aminophenethyl alcohol (11.2 g), potassium acetate (7.87 g), copper acetate (0.46 g), and nitrobenzene (75 mL). The flask was flushed with nitrogen and then heated to reflux for about 2 hours. The mixture was filtered. The solvent was removed from the filtrate, and the resultant solid was washed with methanol. The product was purified by dissolving the dried filtrate in dichloromethane and chromatographing on a silica column using a 10/90 (v/v) acetone/dichloromethane mixture as the eluent. The solvent was removed from the chromatographed material and dried in vacuo.

reactant | 1-chloroanthraquinone | 10.5 g | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
reactant | 4-aminophenethyl alcohol | 11.2 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | potassium acetate | 7.87 g | C(C)(=O)[O-].[K+]
reactant | nitrobenzene | 75 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper acetate | 0.46 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-[4-[2-hydroxyethyl]phenyl]aminoanthraquinone | OCCC1=CC=C(C=C1)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C22H17NO3
